US04684653
2-Acetamido-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine
To a suspension of 0.95 g of 2-acetamido-4-hydroxy-6-[2-(4-acetoxycarbonylphenyl)ethenyl]pyrido[2,3-d]pyrimidine in 50 mL of water was added 1N aqueous sodium hydroxide until a homogenous solution was obtained. Acidification with acetic acid resulted in the formation of a yellow precipitate which was collected by filtration. The filter cake was washed sequentially with water, methanol, acetone and ether. The residual solid was recrystallized from DMF to give 0.65 g (77%) of the title compound, which can be alternatively named as 2-acetamido-6-(4-carboxystyryl)-5-deaza-4(3H)-pteridinone, as a microcrystalline yellow solid, mp >300° C.; NMR (TFA-d1) delta 2.5 (s, 3H), 6.85, 7.32 (AB q, 2H, J=12 Hz), 7.45, 8.18 (AB q, 4H, J=9 Hz), 8.65 (s, 1H), 9.02 (s, 1H); IR (Nujol) 3300-2200 (br), 1685, 1655, 1630, 1600, 1565 cm-1 . MS: Calc'd. for C18H14N4O4 : 350. Found: m/e 350 (base), 308.

reactant | 2-acetamido-4-hydroxy-6-[2-(4-acetoxycarbonylphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 0.95 g | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)OC(C)=O)O | C20H16N4O5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 2-Acetamido-4-hydroxy-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 0.65 g, 77% | C(C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)O)O | C18H14N4O4
